US07816371B2
h. N-(6-Chloro-2-(2-hydroxyethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamide
A round bottom flask was charged with 2-(6-chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)ethyl acetate (80.0 mg, 0.000165 mol), potassium carbonate (34.2 mg, 0.000248 mol), methanol and 2 drops of water and the reaction stirred for 20 minutes at room temperature. The reaction was then filtered over sodium sulfate and celite and washed with methanol. The solvent was removed and the residue purified by preparative HPLC (reverse phase) to obtain the product as a pale yellow solid. MS m/z=443.3 (M+H) 1H NMR (400 MHz; DMSO-d6) δ 10.18 (s, 1H), 8.15 (d, J=8.81 Hz, 1H), 7.82 (d, J=6.7 Hz, 1H), 7.77-7.74 (m, 1H), 7.59 (d, J=8.81 Hz, 1H), 7.52 (t, J=9.52 Hz, 1H), 7.46 (d, J=7.40 Hz, 1H), 6.40 (d, J=7.59 Hz, 1H), 4.88 (t, J=5.0 Hz, 1H), 4.00 (t, J=5.55 Hz, 2H), 3.89 (s, 2H), 3.65 (q, J=5.55 Hz, 2H).

reactant | 2-(6-chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | 0.000165 mol, 80.0 mg | C(C)(=O)OCCN1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O)Cl)=O | C22H17ClF4N2O4
reactant | potassium carbonate | 0.000248 mol, 34.2 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | water | 2 drops | O | H2O
solvent | methanol | CO | CH4O
product | N-(6-Chloro-2-(2-hydroxyethyl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamide | ClC=1C(=C2C=CN(C(C2=CC1)=O)CCO)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O | C20H15ClF4N2O3
